US07709466B2
b) 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-pentyl-1H-indole
20 mg Palladium catalyst (10% on Charcoal) is added to a solution of 145 mg 2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-pent-1-enyl-1H-indole in 1 ml ethanol and the suspension is stirred under a hydrogen atmosphere for 8 hours. The crude product is isolated by filtration and removal of the solvent and purified by silicagel chromatography (ethylacetate/n-hepatane)

reactant | 2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-pent-1-enyl-1H-indole | 145 mg | COC=1N=NC(=CC1C=1NC2=CC=CC=C2C1C=CCCC)C1=CC=NC=C1 | C23H22N4O
catalyst | Palladium | 20 mg | [Pd] | Pd
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-pentyl-1H-indole | COC=1N=NC(=CC1C=1NC2=CC=CC=C2C1CCCCC)C1=CC=NC=C1 | C23H24N4O
